US08039469B2
Step 2: Preparation of 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-chloro-1,3,5-triazin-2-yl)phenyl)-3-methylurea
The title compound was prepared by following the procedure of example 462 step 4 using 3-(4,6-dichloro-1,3,5-triazin-2-yl)-8-oxa-3-azabicyclo[3.2.1]octane and 1-methyl-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea. Yield 5 g, 29% yield.

reactant | 3-(4,6-dichloro-1,3,5-triazin-2-yl)-8-oxa-3-azabicyclo[3.2.1]octane | ClC1=NC(=NC(=N1)Cl)N1CC2CCC(C1)O2 | C9H10Cl2N4O
reactant | 1-methyl-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea | CNC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
product | 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-chloro-1,3,5-triazin-2-yl)phenyl)-3-methylurea | 29% yield | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)Cl)C2=CC=C(C=C2)NC(=O)NC | C17H19ClN6O2
